US05750531
Synthesis of 5,6-dimethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.84 ml, 7.8 mmol) was added to a mixture solution of 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.0 g, 3.6 mmol) and dimethylformamide(5 ml), 0.55 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 7.8 mmol, 0.84 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 3.6 mmol, 1.0 g | CC=1C(=NC(=NC1C)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.55 g, Yield: 39% | Cl.CC=1C(=NC(=NC1C)N(C)C1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H24N4.ClH/c1-16-17(2)23-22(25(3)20-11-5-4-6-12-20)24-21(16)26-14-13-18-9-7-8-10-19(18)15-26;/h4-12H,13-15H2,1-3H3;1H
